US08802688B2
To a solution of methyl 1H-indazole-6-carboxylate (865 mg, 4.91 mmol) in N,N-dimethylformamide (12 mL) was added potassium hydroxide (840 mg, 3.05 mmol) followed by iodine (1.54 g, 5.9 mmol). The mixture was stirred at room temperature for 3 hours. Sodium bisulfate (30 mL of 5% aqueous) was added and the mixture was extracted with ethyl acetate twice. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified via flash column chromatography (5-65% ethyl acetate/heptanes) to afford methyl 3-iodo-1H-indazole-6-carboxylate as a colorless solid (1.16 g, 78%). 1H NMR (400 MHz, DMSO-d6, δ): 13.84 (s, 1 H), 8.13 (s, 1 H), 7.72 (d, J=8.4 Hz, 1 H), 7.54 (d, J=8.6 Hz, 1 H), 3.87 (s, 3 H).

reactant | methyl 1H-indazole-6-carboxylate | 4.91 mmol, 865 mg | N1N=CC2=CC=C(C=C12)C(=O)OC | C9H8N2O2
reactant | potassium hydroxide | 3.05 mmol, 840 mg | [OH-].[K+]
reactant | iodine | 5.9 mmol, 1.54 g | II | I2
reactant | Sodium bisulfate | 30 mL | S([O-])(O)(=O)=O.[Na+]
solvent | N,N-dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
product | methyl 3-iodo-1H-indazole-6-carboxylate | 1.16 g, 78% | IC1=NNC2=CC(=CC=C12)C(=O)OC | C9H7IN2O2
